US04536569
3-Acetylaminoaniline (15 parts) was reacted with n-hexyl chloride (12.1 parts) at 100° to 110° C. for 4 hours in the presence of anhydrous sodium carbonate (5.3 parts) to obtain 3-acetylamino-N-hexylaniline. Thereafter, reaction was further continued at 120° to 130° C. for 4 hours with addition of n-amyl chloride (10.7 parts) and anhydrous sodium carbonate (5.3 parts) to obtain 3-acetylamino-N-n-hexyl-N-n-pentylaniline (coupling component). In the same manner as in Example 1, 2-cyano-4-nitro-6-chloroaniline was diazotized and coupled with the above coupling component to obtain 42.5 parts of a dye (6).

reactant | 3-Acetylaminoaniline | C(C)(=O)NC=1C=C(N)C=CC1 | C8H10N2O
reactant | n-hexyl chloride | C(CCCCC)Cl | C6H13Cl
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 3-acetylamino-N-hexylaniline | C(C)(=O)NC=1C=C(NCCCCCC)C=CC1 | C14H22N2O
